US06498172B1
3-[3-({Benzenesulfonyl-[3-(3,5-dichloro-phenyl)-allyl]-amino}-methyl)-phenyl]-propionic acid methyl ester.
Following the procedure described in Step A of Example 2, 3-[3-(benzenesulfonylamino-methyl)-phenyl]-propionic acid methyl ester was alkylated with 1-(3-bromo-propenyl)-3,5-dichloro-benzene to provide the title compound of Step A. 1H NMR (400 MHz, CDCl3) δ 7.87 (dd, 2H), 7.63 (m, 1H), 7.55 (m, 2H), 7.22 (m, 2H), 7.07 (m, 3H), 6.93 (s, 2H), 6.11 (d, 1H), 5.77 (m, 1H), 4.34 (s, 2H), 3.87 (d, 2H), 3.66 (s, 3H), 2.87 (t, 2H), 2.54 (t, 2H).

reactant | 3-[3-(benzenesulfonylamino-methyl)-phenyl]-propionic acid methyl ester | COC(CCC1=CC(=CC=C1)CNS(=O)(=O)C1=CC=CC=C1)=O | C17H19NO4S
reactant | 1-(3-bromo-propenyl)-3,5-dichloro-benzene | BrCC=CC1=CC(=CC(=C1)Cl)Cl | C9H7BrCl2
product | 3-[3-({Benzenesulfonyl-[3-(3,5-dichloro-phenyl)-allyl]-amino}-methyl)-phenyl]-propionic acid methyl ester | COC(CCC1=CC(=CC=C1)CN(CC=CC1=CC(=CC(=C1)Cl)Cl)S(=O)(=O)C1=CC=CC=C1)=O | C26H25Cl2NO4S
